* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1006.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
R1 OUT N001 99K
R2 N001 0 1K
V3 IN 0 SINE(5m 1m 1K)
X§U1 IN N001 +V 0 OUT LT1006
R3 OUT 0 660
.tran 3m
* Gain 100 Amplifier
.lib LTC.lib
.backanno
.end
